US06528535B2
Step 8: 6-Methoxy-7-methyl-1,2,3,4-tetrahydro-1-naphthalenone
A solution of 5.6 g (26.9 mmol) of 4-(3-methoxy-4-methylphenyl)butanoic acid in 100 mL of CH2Cl2 was cooled in ice and treated dropwise with 25 mL of trifluoroacetic anhydride. After stirring at 0° C. for 1 hour, the solution was diluted with Et2O and washed twice with 5% NaOH, then with saturated NaCl. Drying over MgSO4 and removal of the solvent under reduced pressure left the crude product. Chromatography on silica gel, eluting with CH2Cl2 gave 2.79 g (54.7% yield) of the product as a white solid, mp 104-107° C. The structure was confirmed by NMR and mass spectroscopy. MS m/z 191 (M+H+).

reactant | 4-(3-methoxy-4-methylphenyl)butanoic acid | 26.9 mmol, 5.6 g | COC=1C=C(C=CC1C)CCCC(=O)O | C12H16O3
reactant | trifluoroacetic anhydride | 25 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
solvent | Et2O | CCOCC | C4H10O
product | 6-Methoxy-7-methyl-1,2,3,4-tetrahydro-1-naphthalenone | 2.79 g, 54.7% yield | COC=1C=C2CCCC(C2=CC1C)=O | C12H14O2
